US08492378B2
N-ethyl-2-[[1-[4-(methylthio)phenyl]-1H-benzimidazol-6-yl]carbonyl]hydrazinecarbothioamide
In the same manner as in Reference Example 115 and using 1-[4-(methylthio)phenyl]-1H-benzimidazole-6-carbohydrazide instead of 3-[4-(methylthio)phenyl]-1-benzofuran-5-carbohydrazide and ethyl isothiocyanate instead of methyl isothiocyanate, the title compound (yield 90%) was obtained as colorless crystals.

reactant | 1-[4-(methylthio)phenyl]-1H-benzimidazole-6-carbohydrazide | CSC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C(=O)NN | C15H14N4OS
reactant | ethyl isothiocyanate | C(C)N=C=S | C3H5NS
product | N-ethyl-2-[[1-[4-(methylthio)phenyl]-1H-benzimidazol-6-yl]carbonyl]hydrazinecarbothioamide | yield 90% | C(C)NC(=S)NNC(=O)C=1C=CC2=C(N(C=N2)C2=CC=C(C=C2)SC)C1 | C18H19N5OS2
